US09447106B2
To a solution of isoindoline-1,3-dione (74 mg, 0.5 mmol) in THF (20 mL) was added PPh3 (393 mg, 1.5 mmol) and 6-(hydroxymethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide (180 mg, 0.5 mmol). DIAD (253 mg, 1.25 mmol) was added dropwise at 0° C. and stirred for 10 min. The mixture was allowed to warm to it and stirred for 16 hr. Concentrated and purified by chromatography column on 5 g of silica gel eluting with DCM/CH3OH to afford 200 mg (62%) of 6-((1,3-dioxoisoindolin-2-yl)methyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide as a yellow solid. MS (ESI) m/e [M+1]+ 493.9.

reactant | isoindoline-1,3-dione | 0.5 mmol, 74 mg | C1(NC(C2=CC=CC=C12)=O)=O | C8H5NO2
reactant | PPh3 | 1.5 mmol, 393 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 6-(hydroxymethyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | 0.5 mmol, 180 mg | OCC1CNC=2N(C1)N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C20H20N4O3
reactant | DIAD | 1.25 mmol, 253 mg | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 6-((1,3-dioxoisoindolin-2-yl)methyl)-2-(4-phenoxyphenyl)-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrimidine-3-carboxamide | 200 mg, 62% | O=C1N(C(C2=CC=CC=C12)=O)CC1CNC=2N(C1)N=C(C2C(=O)N)C2=CC=C(C=C2)OC2=CC=CC=C2 | C28H23N5O4
